US04282365
Methyl 6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-carboxylate
Reflux 8 gm. of 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-carboxylic acid in 600 cc. of methanol containing 1 cc. of sulfuric acid for 19 hours. Cool and separate the solids by filtration to obtain the title product. (m.p. 130°-131° C.).

reactant | 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-carboxylic acid | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)O | C15H10O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 1 cc | CO | CH4O
product | Methyl 6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-carboxylate | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C16H12O4
